US05824691
The mixture of methyl 5-cyano-3-(pyrrol-1-yl)benzoate (3.0 g), sodium azide (5.2 g) and ammonium chloride (4.3 g) in N,N-dimethylformamide (12 ml) was stirred for 4 hours at 120°-125° C. The mixture was added to the ice-water (100 ml) and to the mixture was added sodium nitrite (5.5 g). The mixture was adjusted to pH 1 with 6N-hydrochloric acid and stirred for 30 minutes. The mixture was extracted with ethyl acetate. The extract layer was washed with brine and dried over magnesium sulfate. The solvent was removed by concentration and the residue was triturated with diisopropyl ether to give methyl 3-(pyrrol-1-yl)-5-(1H-tetrazol-5-yl)benzoate (3.35 g).

reactant | methyl 5-cyano-3-(pyrrol-1-yl)benzoate | 3.0 g | C(#N)C=1C=C(C=C(C(=O)OC)C1)N1C=CC=C1 | C13H10N2O2
reactant | sodium azide | 5.2 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.3 g | [Cl-].[NH4+]
reactant | sodium nitrite | 5.5 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | methyl 3-(pyrrol-1-yl)-5-(1H-tetrazol-5-yl)benzoate | 3.35 g | N1(C=CC=C1)C=1C=C(C(=O)OC)C=C(C1)C1=NN=NN1 | C13H11N5O2
